US08034814B2
1d) trans 1-(4-Isopropyl-cyclohexylamino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine
Under N2 atmosphere, in an ampoule 1.73 g (12 mMol) of trans 4-isopropyl-cyclohexylamine (preparation see Arzneim. Forsch. 1969, 19, 140) and 700 mg (2.4 mMol) of 1-chloro-4-[2-methoxy-pyridin-4-yl)methyl]phthalazine are heated during 17 h at 140° C. The reaction mixture is suspended in EtOAc, and 1.5 ml of NH3 solution (25%) and water are added. The isolated aqueous phase is extracted another two times with EtOAc, and the organic phases are washed with water and brine, dried (Na2SO4) and evaporated to dryness. Column chromatography (SiO2; hexane/EtOAc 1:1) results in the title compound: M.p. 65-66° C.; FAB-MS: (M+H)+=391.

reactant | trans 4-isopropyl-cyclohexylamine | 12 mMol, 1.73 g | C(C)(C)[C@@H]1CC[C@H](CC1)N | C9H19N
reactant | phthalazine | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | NH3 | 1.5 ml | N | H3N
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | trans 1-(4-Isopropyl-cyclohexylamino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NN=C(C2=CC=CC=C12)CC1=CC(=NC=C1)OC | C24H30N4O
